* OPA855
*****************************************************************************
* (C) Copyright 2018 Texas Instruments Incorporated. All rights reserved.
*****************************************************************************
** This model is designed as an aid for customers of Texas Instruments.
** TI and its licensors and suppliers make no warranties, either expressed
** or implied, with respect to this model, including the warranties of 
** merchantability or fitness for a particular purpose.  The model is
** provided solely on an "as is" basis.  The entire risk as to its quality
** and performance is with the customer.
*****************************************************************************
*
** Released by: Texas Instruments Inc.
* Part: OPA855
* Date: 10/26/2018
* Model Type: All In One
* Simulator: PSPICE 
* Simulator Version: 17.2
* EVM Order Number: N/A 
* EVM Users Guide:  N/A 
* Datasheet: SBOS622 – OCTOBER 2018
*
* Model Version: 1.1
*
*****************************************************************************
*
* Updates:
*
* Version 1.0 : Release to Web
*         1.1 : Adjusting the current noise and voltage noise
*
*****************************************************************************
* The following parameters are modeled: 
* Input Offset Voltage, Input Bias Current, VIH/VIL, CMRR,
* small signal freq response, Input Referred Voltage Noise, 
* Input Referred Current Noise, Slew Rate,
* Short Circuit Output Current, VOH/VOL, Iq, PSRR
*
*****************************************************************************

.subckt OPA855 INP INN VCC VEE OUT PD
XI0 VEE VCC INN INP OUT PD VFA
.ends


.subckt VFA VEE VCC VINM VINP VOUT PD
XI0 VEE VCC VINM VINP VOUT PD VFA_HT5
.ends







.subckt ESDDIODES VCC VEE VIN VOUT PARAMS: VESDL=-700e-3 VESDH=-700e-3
XIDVIH NET12 NET16 DiodeIdeal
XIDVIL NET16 NET20 DiodeIdeal
R0 VIN NET16  1e-3
V0 NET16 VOUT 0
VESDL NET20 VEE {VESDL} 
VESDH VCC NET12 {VESDH} 
.ends ESDDIODES


.subckt VINRANGE3 SIGNAL1 SIGNAL2 VCC VEE VINM VINP PARAMS: SignalGain=1 VIL=100e-3 VIH=100e-3
XIDVIL NET13 NET074 DiodeIdeal
XIDVIH NET076 NET13 DiodeIdeal
FVIL2 SIGNAL2 VEE VIL   {SignalGain} 
FVIL1 SIGNAL1 VEE VIL   {SignalGain} 
FVIH1 VCC SIGNAL1 VIH   {SignalGain} 
FVIH2 VCC SIGNAL2 VIH   {SignalGain} 
E1 NET8 0 VINM 0 1
E0 NET6 0 VINP 0 1
VIL NET074 VEE {VIL} 
VIH VCC NET076 {VIH} 
R7 NET8 NET13  1
R6 NET6 NET13  1
.ends VINRANGE3


.subckt ZIN IN1 IN2 OUT1 OUT2 PARAMS: R5=100e-3 R4=100e-3 C3=50e-15 C2=50e-15
+ C1=50e-15 R2=10e9 R1=10e9 R3=1e9

R5 IN2 OUT2   {R5} 
R4 IN1 OUT1   {R4} 
C3 OUT1 OUT2   {C3} 
C2 OUT2 0   {C2} 
C1 OUT1 0   {C1} 
GR2 OUT2 0 OUT2 0  {1/R2} 
GR1 0 OUT1 0 OUT1  {1/R1} 
GR3 OUT1 OUT2 OUT1 OUT2  {1/R3} 
.ends ZIN


.subckt DOMPOLE A B C PARAMS: R2=1e-3 R1=2.653e6 C2=1e-15 C1=10e-12
R2 NET7 A   {R2} 
R1 B A   {R1} 
C2 NET7 C   {C2} 
C1 A B   {C1} 
.ends DOMPOLE


.subckt PHASEDELAY A B VIN VOUT PARAMS: R1=1 R2=1e9 C1=1e-15 C2=1e-15 Gain=1 L=1e-12
R5 VOUT NET026  1e-3
R3 NET15 NET024  1e-3
R1 NET27 NET15   {R1} 
R4 NET15 A  1e9
R2 VOUT B   {R2} 
C1 NET024 A   {C1} 
C2 NET026 B   {C2} 
E0 NET27 0 VIN 0  {Gain} 
L0 NET15 VOUT  {L} 
.ends PHASEDELAY


.subckt NONDOMPOLE C VIN VOUT PARAMS: L=1e-12 Gain=1 C=226.7e-12 Rp=1e9 Rs=1
L0 NET020 VOUT  {L} 
E0 NET4 0 VIN 0  {Gain} 
C1 NET019 C   {C} 
R3 VOUT C   {Rp} 
R2 VOUT NET019  1e-3
R1 NET020 NET4   {Rs} 
.ends NONDOMPOLE


.subckt ANALOG_BUFFER VOUT VIN
R0 VIN 0  1e9
R1 VOUT 0  1e9
E0 VOUT 0 VIN 0 1
.ends ANALOG_BUFFER


.subckt OUTPUTCIR PD VCC VCCMAIN VEE VEEMAIN VIN VOUT
XI25 NET75 NET092 OutputCir_IscDiodeIdeal PARAMS: IS=10e-15 N=50e-3
XI23 NET79 NET76 OutputCir_IscDiodeIdeal PARAMS: IS=10e-15 N=50e-3

**XIVOL VOL VEE VIMONINV OutputCir_VOHVOL PARAMS: VSUPPLYREF=-2.5 VOUTvsIOUT_X1=
**+ {ABS(0)}  VOUTvsIOUT_Y1=-2.3 VOUTvsIOUT_X2= {ABS(-100e-3)}  VOUTvsIOUT_Y2=-2
**+ 
**XIVOH VCC VOH VIMON OutputCir_VOHVOL PARAMS: VSUPPLYREF=2.5 VOUTvsIOUT_X1= {ABS(0)}
**+ VOUTvsIOUT_Y1=2.3 VOUTvsIOUT_X2= {ABS(100e-3)}  VOUTvsIOUT_Y2=2

*XIVOL VOL VEE VIMONINV OutputCir_VOHVOL PARAMS: VSUPPLYREF=-2.5 VOUTvsIOUT_X1=
*+ {ABS(0)}  VOUTvsIOUT_Y1=-1.25 VOUTvsIOUT_X2= {ABS(-100e-3)}  VOUTvsIOUT_Y2=-1.25
*+ 
*XIVOH VCC VOH VIMON OutputCir_VOHVOL PARAMS: VSUPPLYREF=2.5 VOUTvsIOUT_X1= {ABS(0)}
*+ VOUTvsIOUT_Y1=1.25 VOUTvsIOUT_X2= {ABS(100e-3)}  VOUTvsIOUT_Y2=1.25

 
XIVOH VCC VOH VIMON OutputCir_VOHVOL PARAMS: VSUPPLYREF=5 VOUTvsIOUT_X1= {ABS(0)}
+ VOUTvsIOUT_Y1=4.1 VOUTvsIOUT_X2= {ABS(100e-3)}  VOUTvsIOUT_Y2=4.1

XIVOL VOL VEE VIMONINV OutputCir_VOHVOL PARAMS: VSUPPLYREF=0 VOUTvsIOUT_X1=
+ {ABS(0)}  VOUTvsIOUT_Y1=1.05 VOUTvsIOUT_X2= {ABS(-100e-3)}  VOUTvsIOUT_Y2=1.05


**XISOURCEVLIMIT NET064 NET76 VCC VEE OutputCir_IscVlimit PARAMS: RIsc=1 IscVsVsupply_X1=3
**+ IscVsVsupply_Y1= {ABS(75e-3)}  IscVsVsupply_X2=5 IscVsVsupply_Y2= {ABS(100e-3)}
**+ 
**XISINKVLIMIT NET047 NET092 VCC VEE OutputCir_IscVlimit PARAMS: RIsc=1 IscVsVsupply_X1=3
**+ IscVsVsupply_Y1= {ABS(-75e-3)}  IscVsVsupply_X2=5 IscVsVsupply_Y2= {ABS(-100e-3)}
**+ 

XISOURCEVLIMIT NET064 NET76 VCC VEE OutputCir_IscVlimit PARAMS: RIsc=1 IscVsVsupply_X1=3
+ IscVsVsupply_Y1= {ABS(105e-3)}  IscVsVsupply_X2=5 IscVsVsupply_Y2= {ABS(105e-3)}
+ 
XISINKVLIMIT NET047 NET092 VCC VEE OutputCir_IscVlimit PARAMS: RIsc=1 IscVsVsupply_X1=3
+ IscVsVsupply_Y1= {ABS(-105e-3)}  IscVsVsupply_X2=5 IscVsVsupply_Y2= {ABS(-105e-3)}

XI14 NET070 NET15 DiodeIdeal
XI15 NET068 VOL DiodeIdeal
XI0 VCCMAIN VEEMAIN VIMON PD OutputCir_ILOAD

**XI1 NET53 NET22 VIMON OutputCir_Rout PARAMS: Ro_Iout_0A=100 RIsc=1 Isc=100e-3 Islope_const=10e-3
*XI1 NET53 NET22 VIMON OutputCir_Rout PARAMS: Ro_Iout_0A=12.45 RIsc=1 Isc=51e-3 Islope_const=10e-3
RXI1 NET53 NET22 11.45

XI6 NET22 NET0100 0 NET043 VCC VEE RECOVERYSIGNAL OutputCir_RecoveryAssist
XAHDLI43 NET055 NET054 RECOVERYSIGNAL VCC VEE HPA_OR2
XAHDLI41 VOUT NET067 NET055 VCC VEE HPA_COMP_IDEAL
XAHDLI42 NET059 VOUT NET054 VCC VEE HPA_COMP_IDEAL
HVIMONINV VIMONINV 0 VCURSINKDETECT  1
HVIMON VIMON 0 VCURSOURCEDETECT  1

****RP NET092 NET0146  1e-3

RVIMONINV VIMONINV 0  1e9
RVIMON VIMON 0  1e9
RISC NET092 NET15  1

**ROUTMINOR NET0100 NET17  10
ROUTMINOR NET0100 NET17  20

XI11 NET76 NET15 ANALOG_BUFFER
XI2 NET22 VIN ANALOG_BUFFER
VPROBE3 NET070 VOH 0
VPROBE2 NET043 NET0100 0
VTRIGGERVOL NET059 VOL 10e-3
VTRIGGERVOH VOH NET067 10e-3
V3 NET79 NET047 0
V4 NET75 NET064 0
VPROBE4 NET068 NET15 0
VCURSOURCEDETECT NET15 NET34 0
VCURSINKDETECT VOUT NET34 0
VPROBE1 NET53 NET17 0

**LOUT NET17 NET092 500e-12
LOUT NET17 NET092 700e-12

CBYP NET17 NET0017 125e-13

RBYP NET0017 NET092 15

RP NET092 NET0146  20

**CP NET0146 0  1e-15
**CP NET0146 0  500e-8
CP NET0146 0  20e-13


**COUT NET22 NET0100  1e-15
COUT NET22 NET0100  500e-11
.ends OUTPUTCIR


.subckt RECOVERYCIRCUIT A B VCC VEE PARAMS: VRecL=-10e-3 VRecH=-10e-3
XI2 NET8 NET014 DiodeIdeal
XI3 NET014 NET9 DiodeIdeal
VBRIDGE NET014 A 0
VPROBE A B 0
VRECL NET9 VEE {VRecL} 
VRECH VCC NET8 {VRecH} 
.ends RECOVERYCIRCUIT


.subckt VFA_HT5 VEE VCC VINM VINP VOUT PD
XI67 VCC_INT VEE_INT NET21 VINP_INT ESDDIODES PARAMS: VESDL=1.1 VESDH=0.4
XI68 VCC_INT VEE_INT NET22 VINM_INT ESDDIODES PARAMS: VESDL=1.1 VESDH=0.4

**XI66 HIGHZ NET56 VCC_INT VEE_INT NET22 NET21 VINRANGE3 PARAMS: SignalGain=1 VIL=100e-3 VIH=100e-3
*XI66 HIGHZ NET56 VCC_INT VEE_INT NET22 NET21 VINRANGE3 PARAMS: SignalGain=1 VIL=1.25 VIH=0.2

**XI60 VINP_INT VINM_INT Ibias PARAMS: Choice=1 Ibias=-10e-6 Ioffset=150e-9 TA=25
**+ IbiasDrift=0 IoffsetDrift=0 Ibiasp=-9.925e-6 Ibiasm=-10.075e-6

XI60 VINP_INT VINM_INT Ibias PARAMS: Choice=1 Ibias=-11.24e-6 Ioffset=49e-9 TA=27
+ IbiasDrift=37.228e-9 IoffsetDrift=10e-9 Ibiasp=-11.255625e-6 Ibiasm=-11.22425e-6

**XI21 NET12 NET22 NET12 CMRR PARAMS: CMRR_DC=-100 CMRR_f3dB=50e3 CMRR_f3dB_FudgeFactor=3.4
XI21 NET12 NET22 NET12 CMRR PARAMS: CMRR_DC=-125 CMRR_f3dB=1.2e6 CMRR_f3dB_FudgeFactor=10

**XI19 VCC_INT VEE_INT NET2 NET12 PSRR PARAMS: PSRRP_DC=-100 PSRRP_f3dB=100e3
**+ PSRRN_DC=-90 PSRRN_f3dB=90e3
XI19 VCC_INT VEE_INT NET2 NET12 PSRR PARAMS: PSRRP_DC=-76 PSRRP_f3dB=100e3
+ PSRRN_DC=-76 PSRRN_f3dB=90e3


**XI53 VINP VINM NET1 NET2 ZIN PARAMS: R5=100e-3 R4=100e-3 C3=50e-15 C2=50e-15
**+ C1=50e-15 R2=10e9 R1=10e9 R3=1e9

XI53 VINP VINM NET1 NET2 ZIN PARAMS: R5=100e-3 R4=100e-3 C3=200e-15 C2=0.6e-12
+ C1=0.6e-12 R2=1.8e6 R1=1.8e6 R3=5.01e3

**XI58 HIGHZ NET32 0 DOMPOLE PARAMS: R2=1e-3 R1=2.653e6 C2=1e-15 C1=10e-12
XI58 HIGHZ NET32 0 DOMPOLE PARAMS: R2=1e-3 R1=5.244E+04 C2=1e-15 C1=3.23E-12

**XI18 NET11 0 Inoise PARAMS: X=1e-3 Y=100e-15 Z=1e-15
**XI63 NET2 0 Inoise PARAMS: X=1e-3 Y=100e-15 Z=1e-15


XI18 NET11 0 Inoise PARAMS: X=1k Y=35e-12 Z=2.5e-12
XI63 NET2  0 Inoise PARAMS: X=1k Y=35e-12 Z=2.5e-12

**XI52 VINP_INT VINM_INT NET32 NET31 VEE_INT VCC_INT POWER GmItail PARAMS: Choice=2
**+ Gm=37.7e-3 SBF=1 ITAILMAX_X1=3 ITAILMAX_Y1=1e-3 ITAILMAX_X2=5 ITAILMAX_Y2=1e-3
**+ ITAILMIN_X1=3 ITAILMIN_Y1=1e-3 ITAILMIN_X2=5 ITAILMIN_Y2=1e-3

XI52 VINP_INT VINM_INT NET32 NET31 VEE_INT VCC_INT POWER GmItail PARAMS: Choice=2
+ Gm=1.796E-01 SBF=1 ITAILMAX_X1=3 ITAILMAX_Y1=10e-3 ITAILMAX_X2=5 ITAILMAX_Y2=10e-3
+ ITAILMIN_X1=3 ITAILMIN_Y1=10e-3 ITAILMIN_X2=5 ITAILMIN_Y2=10e-3

XI85 0 0 NET61 NET71 PHASEDELAY PARAMS: R1=1 R2=1e9 C1=1e-15 C2=1e-15 Gain=1 L=1e-12

**XI26 0 NET51 NET61 NONDOMPOLE PARAMS: L=1e-12 Gain=1 C=226.7e-12 Rp=1e9 Rs=1
***XI26 0 NET51 NET61 NONDOMPOLE PARAMS: L=1e-12 Gain=1 C=9.825E-11 Rp=1e9 Rs=1
**XI26 0 NET51 NET61 NONDOMPOLE PARAMS: L=1e-12 Gain=1 C=1.825E-12 Rp=1e9 Rs=1
**XI26 0 NET51 NET61 NONDOMPOLE PARAMS: L=1e-12 Gain=1 C=5.825E-10 Rp=1e9 Rs=1
**JB**XI26 0 NET51 NET61 NONDOMPOLE PARAMS: L=1e-12 Gain=1 C=8.825E-11 Rp=1e9 Rs=1
**XI26 0 NET51 NET61 NONDOMPOLE PARAMS: L=1e-12 Gain=1 C=0.99999E-12 Rp=1e9 Rs=1
XI26 0 NET51 NET61 NONDOMPOLE PARAMS: L=1e-12 Gain=1 C=3E-11 Rp=1e9 Rs=1


**XI17 NET1 NET11 Vnoise PARAMS: X=1e-3 Y=100e-9 Z=5e-9
XI17 NET1 NET11 Vnoise PARAMS: X=1k Y=2.75e-9 Z=0.96e-9

**XI59 NET21 NET11 Vinoffset PARAMS: TA=25 VOS=500e-6 DRIFT=10e-6
XI59 NET21 NET11 Vinoffset PARAMS: TA=27 VOS=41.02e-6 DRIFT=0.321e-6

XI30 POWER VCC_INT VCC VEE_INT VEE NET71 VOUT OUTPUTCIR

**XI28 NET41 NET51 VCC_INT VEE_INT RECOVERYCIRCUIT PARAMS: VRecL=-10e-3 VRecH=-10e-3
XI28 NET41 NET51 VCC_INT VEE_INT RECOVERYCIRCUIT PARAMS: VRecL=-200 VRecH=-200

**XI40 VCC VEE POWER VEE_INT VCC_INT Iq PARAMS: IOFF=1e-9 ION_X1=0 ION_Y1=1e-3
**+ ION_X2=1.6 ION_Y2=1e-3 ION_X3=1.9 ION_Y3=1e-3 ION_X4=12 ION_Y4=1e-3

XI40 VCC VEE POWER VEE_INT VCC_INT Iq PARAMS: IOFF=1e-9 ION_X1=0 ION_Y1=16.8e-3
+ ION_X2=1.6 ION_Y2=16.8e-3 ION_X3=1.9 ION_Y3=16.8e-3 ION_X4=12 ION_Y4=16.8e-3

VPROBE2 HIGHZ NET41
VDOMPOLEBIAS NET32 0 0
VPROBE1 NET31 HIGHZ
*R0 NET56 0  1e3
R14 VCC_INT PD  10e6
XAHDLINV3 PD PDINV VCC_INT VEE_INT HPA_INV_IDEAL
XAHDLINV1 PDINV POWER VCC_INT VEE_INT HPA_INV_IDEAL
XI13 VEE_INT VEE ANALOG_BUFFER
XI12 VCC_INT VCC ANALOG_BUFFER
.ends VFA_HT5




.SUBCKT HPA_OR2 1 2 3 VDD VSS
E1 4 0 VALUE = { IF( ((V(1)< (V(VDD)+V(VSS))/2 ) & (V(2)< (V(VDD)+V(VSS))/2 )), V(VSS), V(VDD) ) }
R1 4 3 1
C1 3 0 1e-12
.ENDS


.SUBCKT HPA_INV_IDEAL 1 2 VDD VSS
E1 2 0 VALUE = { IF( V(1)> (V(VDD)+V(VSS))/2, V(VSS), V(VDD) ) }
.ENDS


.SUBCKT HPA_COMP_IDEAL INP INN OUT VDD VSS
E1 OUT 0 VALUE = { IF( (V(INP) > V(INN)), V(VDD), V(VSS) ) }
.ENDS


.SUBCKT AVG VIN1 VIN2 VOUT
E1 VOUT 0 VALUE = { ( V(VIN1) + V(VIN2) ) / 2 }
.ENDS






.SUBCKT CMRR A B C PARAMS:

+ CMRR_DC 	        = -100
+ CMRR_f3dB             = 50e3
+ CMRR_f3dB_FudgeFactor = 3.4

.PARAM CMRR       = {0-CMRR_DC}
.PARAM FCMRR	  = {CMRR_f3dB * CMRR_f3dB_FudgeFactor}

X1 A B C 0 CMRR_NEW PARAMS: CMRR = {CMRR} FCMRR = {FCMRR}
.ENDS


.SUBCKT DiodeIdeal NEG POS











G1 POS NEG VALUE = { IF ( V(POS,NEG) <= 0 , 0, V(POS,NEG)*0.01G ) }
R0 POS NEG 1000G



.ENDS


.SUBCKT DomPoleBias VIN1 VIN2 VOUT
E1 VOUT 0 VALUE = { ( V(VIN1) + V(VIN2) ) / 2 * 1/2}
R1 VOUT 0 1G


.ENDS


.SUBCKT GmItail  Vinp Vinm Ioutp Ioutm VEE VCC PD PARAMS:
+ Choice 	= 2

+ Gm 	        = 3.77e-2
+ SBF		= 1 

+ ITAILMAX_X1 	= { 3.0 }
+ ITAILMAX_Y1 	= { 10m }

+ ITAILMAX_X2 	= { 5.0 }
+ ITAILMAX_Y2 	= { 10m }

+ ITAILMIN_X1 	= { 3.0 }
+ ITAILMIN_Y1 	= { 10m }

+ ITAILMIN_X2 	= { 5.0 }
+ ITAILMIN_Y2 	= { 10m }




.PARAM Choice1 		= { IF ( Choice == 1,  1, 0 ) }
.PARAM Choice2 		= { IF ( Choice == 2,  1, 0 ) }
.PARAM Choice3		= { IF ( Choice == 3,  1, 0 ) }
.PARAM Choice11 	= { IF ( Choice == 11, 1, 0 ) }


X1 PD PDINV VCC VEE LOGIC1 0 DLSINV
VLOGIC1 LOGIC1 0 1




.PARAM ITAILMAX_SLOPE = 
+ { ( ITAILMAX_Y2 - ITAILMAX_Y1 ) / ( ITAILMAX_X2 - ITAILMAX_X1 ) }
.PARAM ITAILMAX_INTCP = 
+ { ITAILMAX_Y1 - ITAILMAX_SLOPE * ITAILMAX_X1 }

EITAILMAX ITAILMAX 0 VALUE = 
+ { ITAILMAX_SLOPE * V(VCC,VEE) + ITAILMAX_INTCP  }




.PARAM ITAILMIN_SLOPE = 
+ { ( ITAILMIN_Y2 - ITAILMIN_Y1 ) / ( ITAILMIN_X2 - ITAILMIN_X1 ) }
.PARAM ITAILMIN_INTCP = 
+ { ITAILMIN_Y1 - ITAILMIN_SLOPE * ITAILMIN_X1 }

EITAILMIN ITAILMIN 0 VALUE = 
+ { ITAILMIN_SLOPE * V(VCC,VEE) + ITAILMIN_INTCP  }






G1 IOUTP IOUTM VALUE = { ( 1-V(PDINV) ) * (
+ Choice1  * ( LIMIT ( Gm * V(VINP,VINM) , -V(ITAILMIN), V(ITAILMAX) ) ) +
+ Choice2  * ( Gm * (V(ITAILMAX)/Gm) * TANH( V(VINP,VINM) / (V(ITAILMAX)/Gm) )   ) +	
+ Choice3  * ( Gm * V(VINP,VINM) / ( 1 + Gm/V(ITAILMAX) * ABS( V(VINP,VINM) ) ) ) +              		
+ Choice11 * ( LIMIT ( ( Gm * EXP ( LIMIT ( SBF * ABS(V(VINP,VINM)) , -LOG(1E100), LOG(1E100) ) ) ) 
+                     * V(VINP,VINM) , -V(ITAILMIN), V(ITAILMAX) ) ) +

+ 0					   )	}

.ENDS

.SUBCKT Ibias VINP VINM PARAMS:
+ Choice       = 1

+ Ibias        = -10u
+ Ioffset      = 150n

+ TA           = 25
+ IbiasDrift   = 0
+ IoffsetDrift = 0

+ Ibiasp       =  -9.925u
+ Ibiasm       = -10.075u

.PARAM Choice1 = { IF ( Choice == 1, 1, 0 ) }
.PARAM Choice2 = { IF ( Choice == 2, 1, 0 ) }

.PARAM Ib = { Choice1 * Ibias   + Choice2 * (Ibiasp + Ibiasm)/2  }
.PARAM Io = { Choice1 * Ioffset + Choice2 * ABS(Ibiasp - Ibiasm) } 

EIb Ib 0 VALUE = { IbiasDrift   * TEMP + ( Ib - IbiasDrift   * TA ) }
EIo Io 0 VALUE = { IoffsetDrift * TEMP + ( Io - IoffsetDrift * TA ) }

GIbp VINP 0 VALUE = { V(Ib) + V(Io)/2 }
GIbm VINM 0 VALUE = { V(Ib) - V(Io)/2 }

.ENDS


.SUBCKT Inoise A B PARAMS:
+ X = { 1m  }
+ Y = { 100f }
+ Z = { 1f }
X1 A B FEMT PARAMS: NLFF = { Y/1f }  FLWF = { X } NVRF = { Z/1f }
.ENDS


.subckt Iq VCCmain VEEmain PD VEE VCC PARAMS:
+ IOFF = { 1n }

+ ION_X1 = { 0.0 }
+ ION_Y1 = { 1m }

+ ION_X2 = { 1.6 }
+ ION_Y2 = { 1m }

+ ION_X3 = { 1.9 }
+ ION_Y3 = { 1m }

+ ION_X4 = { 12.0 }
+ ION_Y4 = { 1m }



















EION_SEG1 ION_SEG1 0 VALUE = { IF ( 		          V(VCC,VEE) <= ION_X2, 1, 0 ) }
EION_SEG2 ION_SEG2 0 VALUE = { IF ( V(VCC,VEE) > ION_X2 & V(VCC,VEE) <= ION_X3, 1, 0 ) }
EION_SEG3 ION_SEG3 0 VALUE = { IF ( V(VCC,VEE) > ION_X3		              , 1, 0 ) }



.PARAM ION_SEG1_SLOPE = { ( ION_Y2 - ION_Y1 ) / ( ION_X2 - ION_X1 ) }
.PARAM ION_SEG1_INTCP = { ION_Y1 - ION_SEG1_SLOPE * ION_X1 }

.PARAM ION_SEG2_SLOPE = { ( ION_Y3 - ION_Y2 ) / ( ION_X3 - ION_X2 ) }
.PARAM ION_SEG2_INTCP = { ION_Y2 - ION_SEG2_SLOPE * ION_X2 }

.PARAM ION_SEG3_SLOPE = { ( ION_Y4 - ION_Y3 ) / ( ION_X4 - ION_X3 ) }
.PARAM ION_SEG3_INTCP = { ION_Y3 - ION_SEG3_SLOPE * ION_X3 }



EION ION 0 VALUE = { 	V(ION_SEG1) * ( ION_SEG1_SLOPE * V(VCC,VEE) + ION_SEG1_INTCP ) +
+			V(ION_SEG2) * ( ION_SEG2_SLOPE * V(VCC,VEE) + ION_SEG2_INTCP ) +
+ 			V(ION_SEG3) * ( ION_SEG3_SLOPE * V(VCC,VEE) + ION_SEG3_INTCP ) 	}



X1 PD PDINV VCC VEE LOGIC1 0 DLSINV
VLOGIC1 LOGIC1 0 1

G1 VCCMAIN VEEMAIN VALUE = { V(ION) * ( 1-V(PDINV) ) + IOFF * V(PDINV) }  

.ends


.SUBCKT OutputCir_ILOAD  VDD VSS VIMON PD
X1 PD PDINV VDD VSS LOGIC1 0 DLSINV
VLOGIC1 LOGIC1 0 1

G1 VDD 0 VALUE = {IF(V(VIMON) >= 0, V(VIMON)*( 1-V(PDINV) ), 0)}
G2 VSS 0 VALUE = {IF(V(VIMON)  < 0, V(VIMON)*( 1-V(PDINV) ), 0)}

.ENDS


.SUBCKT OutputCir_IscDiodeIdeal NEG POS PARAMS: 
+ IS = 1E-14
+ N  = 50m



G1 POS NEG_INT VALUE = { IF ( V(POS,NEG_INT) <= 0 , IS,  
+                             IS * ( EXP ( V(POS,NEG_INT)/25m * 1/N ) - 0 )  ) }  


V1 NEG_INT NEG {-N*0.8}











.ENDS


.SUBCKT OutputCir_IscVlimit A B VCC VEE PARAMS:
+RIsc 		 = { 1 }

+IscVsVsupply_X1 = { 3.0 }
+IscVsVsupply_Y1 = { 75m }

+IscVsVsupply_X2 = { 5.0 }
+IscVsVsupply_Y2 = { 100m }

.PARAM IscVsVsupply_SLOPE = 
+ { ( IscVsVsupply_Y2 - IscVsVsupply_Y1 ) / ( IscVsVsupply_X2 - IscVsVsupply_X1 ) }
.PARAM IscVsVsupply_INTCP = 
+ { IscVsVsupply_Y1 - IscVsVsupply_SLOPE * IscVsVsupply_X1 }

EIscVsVsupply IscVsVsupply 0 VALUE = 
+ { IscVsVsupply_SLOPE * V(VCC,VEE) + IscVsVsupply_INTCP  }

E1 A B VALUE = { V(IscVsVsupply) * RIsc }

.ENDS


.SUBCKT OutputCir_RecoveryAssist  VINP VINM IOUTP IOUTM VCC VEE RecoverySignal



X1 RecoverySignal RS VCC VEE LOGIC1 0 DLS
VLOGIC1 LOGIC1 0 1

G1 IOUTP IOUTM VALUE = { LIMIT ( 1m * V(VINP,VINM) *  V(RS) , -100m, 100m ) }

.ENDS


.SUBCKT OutputCir_Rout B A VIMON PARAMS:
+ Ro_Iout_0A = 100
+ RIsc = 1
+ Isc = 100m
+ Islope_const = 1/100

.PARAM Islope = { Islope_const * Isc }










G1 A B VALUE = { V(A,B) * 1 / ( (Ro_Iout_0A - RIsc) * Islope / ( Islope + ABS(V(VIMON)) ) )   }



.ENDS


.SUBCKT OutputCir_VOHVOLDiodeIdeal NEG POS

G1 POS NEG VALUE = { IF ( V(POS,NEG) <= 0 , 0, V(POS,NEG)*0.01G ) }
R0 POS NEG 1000G


.ENDS


.SUBCKT OutputCir_VOHVOL A B C  PARAMS:
+ VSUPPLYREF    = {2.5} 

+ VOUTvsIOUT_X1 = { ABS(0) }
+ VOUTvsIOUT_Y1 = { 2.4 }

+ VOUTvsIOUT_X2 = { ABS(100m) }
+ VOUTvsIOUT_Y2 = { 2.1 }


.PARAM VDROPvsIOUT_X1 = { VOUTvsIOUT_X1 }
.PARAM VDROPvsIOUT_Y1 = { ABS(VSUPPLYREF-VOUTvsIOUT_Y1) }

.PARAM VDROPvsIOUT_X2 = { VOUTvsIOUT_X2 }
.PARAM VDROPvsIOUT_Y2 = { ABS(VSUPPLYREF-VOUTvsIOUT_Y2) }


.PARAM VDROPvsIOUT_SLOPE = 
+ { ( VDROPvsIOUT_Y2 - VDROPvsIOUT_Y1 ) / ( VDROPvsIOUT_X2 - VDROPvsIOUT_X1 ) }
.PARAM VDROPvsIOUT_INTCP = 
+ { VDROPvsIOUT_Y1 - VDROPvsIOUT_SLOPE * VDROPvsIOUT_X1 }


EVDROPvsIOUT VDROPvsIOUT 0 VALUE = 
+ { VDROPvsIOUT_SLOPE * V(C) + VDROPvsIOUT_INTCP  }

E1 A B VALUE = { V(VDROPvsIOUT) }



.ENDS







.SUBCKT PSRR VDD VSS A B PARAMS:

+ PSRRP_DC    = -100
+ PSRRP_f3dB  = 100k

+ PSRRN_DC    = -90
+ PSRRN_f3dB  = 90k

.PARAM PSRRP       = {0-PSRRP_DC}
.PARAM PSRRN       = {0-PSRRN_DC}
.PARAM FPSRRP      = {PSRRP_f3dB}
.PARAM FPSRRN      = {PSRRN_f3dB}


X1 VDD VSS A B 0 PSRR_DUAL_NEW PARAMS:
+ PSRRP = {PSRRP} FPSRRP = {FPSRRP}
+ PSRRN = {PSRRN} FPSRRN = {FPSRRN}
.ENDS


.SUBCKT RecoveryCircuit_DiodeIdeal NEG POS

G1 POS NEG VALUE = { IF ( V(POS,NEG) <= 0 , 0, V(POS,NEG)*0.01G ) }
R0 POS NEG 1000G


.ENDS


.SUBCKT Vinoffset POS NEG PARAMS: 
+ TA     = 25
+ VOS    = 500u
+ DRIFT  = 10u 




E1 POS NEG VALUE = { DRIFT * TEMP + ( VOS - DRIFT * TA     ) }



.ENDS


.SUBCKT Vinrange_DiodeIdeal NEG POS

G1 POS NEG VALUE = { IF ( V(POS,NEG) <= 0 , 0, V(POS,NEG)*100k ) }
R0 POS NEG 1000G


.ENDS


.SUBCKT Vnoise A B PARAMS:
+ X = { 1m  }
+ Y = { 100n }
+ Z = { 5n  }
X1 A B VNSE PARAMS: NLF = { Y/1n } FLW = { X }  NVR = { Z/1n }
.ENDS












.SUBCKT VNSE  1 2 PARAMS: NLF = 10 FLW = 4  NVR = 4.6
.PARAM GLF={PWR(FLW,0.25)*NLF/1164}
.PARAM RNV={1.184*PWR(NVR,2)}
.MODEL DVN D KF={PWR(FLW,0.5)/1E11} IS=1.0E-16
I1 0 7 10E-3
I2 0 8 10E-3
D1 7 0 DVN
D2 8 0 DVN
E1 3 6 7 8 {GLF}
R1 3 0 1E9
R2 3 0 1E9
R3 3 6 1E9
E2 6 4 5 0 10
R4 5 0 {RNV}
R5 5 0 {RNV}
R6 3 4 1E9
R7 4 0 1E9
E3 1 2 3 4 1
C1 1 0 1E-15
C2 2 0 1E-15
C3 1 2 1E-15
.ENDS



.SUBCKT FEMT  1 2 PARAMS: NLFF = 0.1 FLWF = 0.001 NVRF = 0.1
.PARAM GLFF={PWR(FLWF,0.25)*NLFF/1164}
.PARAM RNVF={1.184*PWR(NVRF,2)}
.MODEL DVNF D KF={PWR(FLWF,0.5)/1E11} IS=1.0E-16
I1 0 7 10E-3
I2 0 8 10E-3
D1 7 0 DVNF
D2 8 0 DVNF
E1 3 6 7 8 {GLFF}
R1 3 0 1E9
R2 3 0 1E9
R3 3 6 1E9
E2 6 4 5 0 10
R4 5 0 {RNVF}
R5 5 0 {RNVF}
R6 3 4 1E9
R7 4 0 1E9
G1 1 2 3 4 1E-6
C1 1 0 1E-15
C2 2 0 1E-15
C3 1 2 1E-15
.ENDS






.SUBCKT PSRR_SINGLE   VDD  VSS  VI  VO  GNDF PARAMS: PSRR = 130 FPSRR = 1.6
.PARAM PI = 3.141592
.PARAM RPSRR = 1
.PARAM GPSRR = {PWR(10,-PSRR/20)/RPSRR}
.PARAM LPSRR = {RPSRR/(2*PI*FPSRR)}
G1  GNDF 1 VDD VSS {GPSRR}
R1  1 2 {RPSRR}
L1  2 GNDF {LPSRR}
E1  VO VI 1 GNDF 1
C2  VDD VSS 10P
.ENDS

.SUBCKT PSRR_SINGLE_NEW   VDD  VSS  VI  VO  GNDF PARAMS: PSRR = 130 FPSRR = 1.6
.PARAM PI = 3.141592
.PARAM RPSRR = 1
.PARAM GPSRR = {PWR(10,-PSRR/20)/RPSRR}
.PARAM LPSRR = {RPSRR/(2*PI*FPSRR)}
G1  GNDF 1 VDD VSS {GPSRR}
R1  1 2 {RPSRR}
L1  2 GNDF {LPSRR}

EA  101 GNDF 1 GNDF 1
GRA  101 102 VALUE = { V(101,102)/1e6 }
CA  102 GNDF 1e3
EB  1 1a VALUE = {V(102,GNDF)}

E1  VO VI 1a GNDF 1
C2  VDD VSS 10P
.ENDS

.SUBCKT PSRR_DUAL   VDD  VSS  VI  VO  GNDF 
+ PARAMS: PSRRP = 130 FPSRRP = 1.6
+ PSRRN = 130 FPSRRN = 1.6
.PARAM PI = 3.141592
.PARAM RPSRRP = 1
.PARAM GPSRRP = {PWR(10,-PSRRP/20)/RPSRRP}
.PARAM LPSRRP = {RPSRRP/(2*PI*FPSRRP)}
.PARAM RPSRRN = 1
.PARAM GPSRRN = {PWR(10,-PSRRN/20)/RPSRRN}
.PARAM LPSRRN = {RPSRRN/(2*PI*FPSRRN)}
G1  GNDF 1 VDD GNDF {GPSRRP}
R1  1 2 {RPSRRP}
L1  2 GNDF {LPSRRP}

G2  GNDF 3 VSS GNDF {GPSRRN}
R2  3 4 {RPSRRN}
L2  4 GNDF {LPSRRN}

E1  VO VI VALUE = {V(1,GNDF) + V(3,GNDF)}
C3  VDD VSS 10P
.ENDS

.SUBCKT PSRR_DUAL_NEW   VDD  VSS  VI  VO  GNDF 
+ PARAMS: PSRRP = 130 FPSRRP = 1.6
+ PSRRN = 130 FPSRRN = 1.6
.PARAM PI = 3.141592
.PARAM RPSRRP = 1
.PARAM GPSRRP = {PWR(10,-PSRRP/20)/RPSRRP}
.PARAM LPSRRP = {RPSRRP/(2*PI*FPSRRP)}
.PARAM RPSRRN = 1
.PARAM GPSRRN = {PWR(10,-PSRRN/20)/RPSRRN}
.PARAM LPSRRN = {RPSRRN/(2*PI*FPSRRN)}

G1  GNDF 1 VDD GNDF {GPSRRP}
R1  1 2 {RPSRRP}
L1  2 GNDF {LPSRRP}

EA  101 GNDF 1 GNDF 1
GRA  101 102 VALUE = { V(101,102)/1e6 }
CA  102 GNDF 1e3
EB  1 1a VALUE = {V(102,GNDF)}


G2  GNDF 3 VSS GNDF {GPSRRN}
R2  3 4 {RPSRRN}
L2  4 GNDF {LPSRRN}

EC  301 GNDF 3 GNDF 1
GRC  301 302 VALUE = { V(301,302)/1e6 }
CC  302 GNDF 1e3
ED  3 3a VALUE = {V(302,GNDF)}


E1  VO VI VALUE = {V(1a,GNDF) + V(3a,GNDF)}
C3  VDD VSS 10P
.ENDS



.SUBCKT CMRR_OLD   VI  VO  VX GNDF PARAMS: CMRR = 130 FCMRR = 1.6K
.PARAM PI = 3.141592
.PARAM RCMRR = 1
.PARAM GCMRR = {PWR(10,-CMRR/20)/RCMRR}
.PARAM LCMRR = {RCMRR/(2*PI*FCMRR)}
G1  GNDF 1 VX GNDF {GCMRR}
R1  1 2 {RCMRR}
L1  2 GNDF {LCMRR}
E1  VI VO 1 GNDF 1
.ENDS

.SUBCKT CMRR_NEW   VI  VO VX GNDF PARAMS: CMRR = 130 FCMRR = 1.6K
.PARAM PI = 3.141592
.PARAM RCMRR = 1
.PARAM GCMRR = {PWR(10,-CMRR/20)/RCMRR}
.PARAM LCMRR = {RCMRR/(2*PI*FCMRR)}
G1  GNDF 1 VX GNDF {GCMRR}
R1  1 2 {RCMRR}
L1  2 GNDF {LCMRR}

EA  101 GNDF 1 GNDF 1
GRA  101 102 VALUE = {V(101,102)/1e6}
CA  102 GNDF 1e3
EB  1 1a VALUE = {V(102,GNDF)}

E1  VI VO 1a GNDF 1
.ENDS



.SUBCKT DLS 1 2 VDD_OLD VSS_OLD VDD_NEW VSS_NEW
E1 3 0 VALUE = { IF( V(1) < (V(VDD_OLD)+V(VSS_OLD))/2, V(VSS_NEW), V(VDD_NEW) ) }
R1 3 2 1
C1 2 0 1p
.ENDS


.SUBCKT DLSINV 1 2 VDD_OLD VSS_OLD VDD_NEW VSS_NEW
E1 3 0 VALUE = { IF( V(1) > (V(VDD_OLD)+V(VSS_OLD))/2, V(VSS_NEW), V(VDD_NEW) ) }
R1 3 2 1
C1 2 0 1p
.ENDS


.SUBCKT SWITCH_IDEAL A B C PARAMS:
+ Ron  = 100m
+ Roff = 0.1G





G1 A B VALUE = { V(A,B) * 1 / ( Roff/2 * TANH( 0 - ( 20*V(C) - 5 ) ) + Roff/2 + Ron )  }

R1 A 0 1000G
R2 B 0 1000G

.ENDS









.MODEL VINRANGE_DIDEAL         D N=1m
.MODEL RECOVERYCIRCUIT_DIDEAL  D N=1m 

.MODEL OUTPUTCIR_ISC_DIDEAL    D N=0.1m
.MODEL OUTPUTCIR_VOHVOL_DIDEAL D N=1m 
.MODEL DBASIC D









